US07153848B2
2-(Benzyloxy)-3-bromopyridine
3-bromo-2-hydroxypyridine (1.74 g, 10 mmol) was added to a suspension of NaH (440 mg of 60% dispersion in mineral oil, 11 mmol) in DMF (10 mL), and the resultant mixture was stirred at rt for 30 min. Benzyl bromide (1.3 mL, 11 mmol) was then added, and the reaction was stirred at rt overnight. It was then quenched by the addition of water, and the product extracted with ethyl acetate (2×50 mL). The extracts were combined, washed with 1N HCl solution, then dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography using hexanes to 100% ethyl acetate in hexanes as eluent to give the title compound as a colorless thick oil, (1.37 g, 52% yield). MS m/z 264, 266(MH+); 1H NMR (500 MHz, CDCl3) δ ppm 5.17 (s, 2 H) 6.05 (t, J=7.02 Hz, 1 H) 7.27–7.88 (m, 6 H) 7.70 (dd, J=7.17, 1.98 Hz, 1 H)

reactant | 3-bromo-2-hydroxypyridine | 10 mmol, 1.74 g | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | NaH | 11 mmol, 440 mg | [H-].[Na+]
reactant | Benzyl bromide | 11 mmol, 1.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(Benzyloxy)-3-bromopyridine | 1.37 g, 52% yield | C(C1=CC=CC=C1)OC1=NC=CC=C1Br | C12H10BrNO
